US05498786
(R)-(+)-2-Hexylthiodecanoic acid
(S)-(-)-2-Bromodecanoic acid (250 mg, 1 mmol) and cesium carbonate (980 mg, 3 mmol) were mixed in 5 ml THF and cooled to 0° C. The reaction was not homogeneous. Hexanethiol was added dropwise. The reaction was allowed to warm to rt and stirred under N2 for 18 hours. The reaction was quenched with 100 ml 1N HCl and extracted with ethyl acetate (3×50 ml). The concentrated organic phase was purified by silica gel column chromatography (eluent: 100% CH2Cl2) to yield 230 mg (80% yield) of the desired product: [α]20D =+57.9 (c=0.022, MeOH); 1H NMR (CDCl3) δ3.21 (1H, dd, J =6.9, 7.0 Hz), 2.62 (2H, m), 1.84 (1H, m), 1.58 (2H, m), 1.26 (19H, m), 0.87 (6H, m).

reactant | (S)-(-)-2-Bromodecanoic acid | 1 mmol, 250 mg | Br[C@H](C(=O)O)CCCCCCCC | C10H19BrO2
reactant | cesium carbonate | 3 mmol, 980 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Hexanethiol | C(CCCCC)S | C6H14S
reactant | THF | 5 ml | C1CCOC1 | C4H8O
product | (R)-(+)-2-Hexylthiodecanoic acid | 230 mg, 80% yield | C(CCCCC)[C@@H](C(=S)O)CCCCCCCC | C16H32OS
